US04058557
To a suspension of 10.0 g. (30.0 mmol) of N-methoxy-N'-methyl guanidine picrate in tetrahydrofuran (60 ml.) are added 2.4 g. (30.0 mmol) of fifty percent (w/w) aqueous sodium hydroxide and the mixture stirred for 11/2 hours. Five (5.0) grams of anhydrous sodium sulfate is added and the mixture stirred for an additional one-half hour. To this mixture is added a solution of 4.8 g. (30.0 mmol) of 2,6-diethylphenylisocyanate in tetrahydrofuran (20 ml.) and the mixture stirred over night. The mixture is partitioned between chloroform and water and the layers are separated. The chloroform layer is washed well with dilute aqueous sodium hydroxide until most of the color is removed then dried over anhyrous magnesium sulfate, filtered and concentrated to give an oil which is dissolved in methanol and acidified with methanolic hydrochloric acid. The methanol is removed under vacuum to give a gummy foam which is crystallized from methanol/ethyl acetate to give 1-(2,6-diethylphenyl)-3-(N-methoxy-N'-methylamidino)urea hydrochloride, m.p. 159.5°-160.5° C.

reactant | N-methoxy-N'-methyl guanidine picrate | 30.0 mmol | C1([N+](=O)[O-])=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1O.CONC(=N)NC
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,6-diethylphenylisocyanate | 30.0 mmol | C(C)C1=C(C(=CC=C1)CC)N=C=O | C11H13NO
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 1-(2,6-diethylphenyl)-3-(N-methoxy-N'-methylamidino)urea hydrochloride | Cl.C(C)C1=C(C(=CC=C1)CC)NC(=O)NC(NOC)=NC | InChI=1S/C14H22N4O2.ClH/c1-5-10-8-7-9-11(6-2)12(10)16-14(19)17-13(15-3)18-20-4;/h7-9H,5-6H2,1-4H3,(H3,15,16,17,18,19);1H
